US05786352
In place of diethyl 5-methyl-4-phenyl-2,3-pyridinedicarboxylate in Step 1 in Reference Example 33, diethyl 4-phenyl-2,3-pyridinedicarboxylate (see Japanese Patent Laid-Open No. 62-106081) was reacted and treated in the same manner as in Step 1 in Reference Example 33, to obtain 4-phenyl-2,3-pyridinedicarboxylic acid as pale yellow crystals.

reactant | diethyl 5-methyl-4-phenyl-2,3-pyridinedicarboxylate | CC=1C(=C(C(=NC1)C(=O)OCC)C(=O)OCC)C1=CC=CC=C1 | C18H19NO4
reactant | diethyl 4-phenyl-2,3-pyridinedicarboxylate | C1(=CC=CC=C1)C1=C(C(=NC=C1)C(=O)OCC)C(=O)OCC | C17H17NO4
product | 4-phenyl-2,3-pyridinedicarboxylic acid | C1(=CC=CC=C1)C1=C(C(=NC=C1)C(=O)O)C(=O)O | C13H9NO4
